US07981886B2
benzo[b]thiophen-2-yl-{trans-4-[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-cyclohexyl}-methanone
Using thianaphthene (5 mmol), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (2.5 mmol) and 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde (0.4 mmol) according to the same protocol as that described for example 1, steps 1.a to 1.c, the title compound was obtained as a colourless oil which solidified on standing (50 mg).

reactant | thianaphthene | 5 mmol | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde | 0.4 mmol | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
product | benzo[b]thiophen-2-yl-{trans-4-[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-cyclohexyl}-methanone | S1C2=C(C=C1C(=O)[C@@H]1CC[C@H](CC1)NCC1=CC3=C(OCCO3)C=C1)C=CC=C2 | C24H25NO3S
